US04778796
Preparation of N-[3-(6-methyl-3-pyridyl)acryloyl]-4-(4-diphenylmethyl-1-piperazinyl)butylamine
To a suspension of 2.71 g of 3-(6-methyl-3-pyridyl)acrylic acid in 70 ml of dry tetrahydrofuran, a solution of 1.68 g of triethylamine in 5 ml of dry tetrahydrofuran is added at room temperature. The resulting solution is cooled to -5° C., and a solution of 2.0 g of pivaloyl chloride in 5 ml of dry tetrahydrofuran is added slowly. The mixture is stirred at the same temperature for 0.5 hour and cooled to -10° C., and a solution of 6.43 g of 4-(4-diphenylmethyl-1-piperazinyl)butylamine in 5 ml of dry tetrahydrofuran is added slowly. The mixture is stirred for 0.5 hour at between -10° C. and -5° C. and then at room temperature overnight. To the reaction mixture is added 50 ml of 10% aqueous potassium carbonate, and the resulting mixture is extracted with three 100-ml portions of ethyl acetate. The combined extracts are washed with water and dried over magnesium sulfate, and the solvent is distilled off. The residue is recrystallized from acetonitrile to give 5.63 g of the title compound, m.p. 129°-131° C.

reactant | 3-(6-methyl-3-pyridyl)acrylic acid | 2.71 g | CC1=CC=C(C=N1)C=CC(=O)O | C9H9NO2
reactant | pivaloyl chloride | 2.0 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 4-(4-diphenylmethyl-1-piperazinyl)butylamine | 6.43 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCCN)C1=CC=CC=C1 | C21H29N3
reactant | potassium carbonate | 50 ml | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 1.68 g | C(C)N(CC)CC | C6H15N
product | N-[3-(6-methyl-3-pyridyl)acryloyl]-4-(4-diphenylmethyl-1-piperazinyl)butylamine | 5.63 g | CC1=CC=C(C=N1)C=CC(=O)NCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C30H36N4O
